US04300942
Freshly prepared ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate (12.55 g.; 0.033mol.) dissolved in 100 ml. of diethyl ether was added to a solution of pyrrolidine (9.3 g.; 0.13 mol.) in 100 ml. of diethyl ether. The reaction mixture was stirred for 16 hours at 25° C., then filtered. The filtrate was washed with water, dried with magnesium sulfate and concentrated in vacuo. To remove any remaining solvent, the residue was concentrated at 25° C. and 0.05 mm. to yield ethyl-N-[(benzylthio)carbonyl]-N-[bis(pyrrolidyl)-phosphinylmethyl]-glycinate, hemi-hydrate as an oil (nD25 =1.5424) having the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate | 0.033mol, 12.55 g | C(C)OC(CN(CP(=O)(Cl)Cl)C(=O)SCC1=CC=CC=C1)=O | C13H16Cl2NO4PS
reactant | pyrrolidine | 0.13 mol, 9.3 g | N1CCCC1 | C4H9N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl-N-[(benzylthio)carbonyl]-N-[bis(pyrrolidyl)-phosphinylmethyl]-glycinate | C(C)OC(CN(C([PH2]=O)(N1CCCC1)N1CCCC1)C(=O)SCC1=CC=CC=C1)=O | C21H32N3O4PS
